US07235581B2
A solution of 0.57 g (2.3 mmol) of (S)-Boc-methionine in 5 ml of dichloromethane is treated at RT consecutively with 0.87 g (2.3 mmol) of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (HBTU), 0.50 g (2.1 mmol) of 4-benzyloxyaniline hydrochloride and 0.98 ml (5.7 mmol) of N-ethyl-diisopropylamine. The reaction mixture is stirred during 1 h at RT. For the working-up, the reaction mixture is diluted with dichloromethane and treated with 20 ml of an aqueous solution of citric acid (10%). The aqueous phase is re-extracted with dichloromethane, the organic phases combined, dried over sodium sulfate and evaporated under reduced pressure. For purification, the crude material obtained is chromatographed on silica gel using a 3:1 mixture of n-hexane and ethyl acetate as the eluent. There are obtained 0.74 g (82.5% of theory) of (S)-[1-(4-benzyloxy-phenylcarbamoyl)-3-methylsulfanyl-propyl]-carbamic acid tert-butyl ester as a white solid. MS: m/e=431 (M+H)+.

reactant | (S)-Boc-methionine | 2.3 mmol, 0.57 g | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.3 mmol, 0.87 g | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | 4-benzyloxyaniline hydrochloride | 2.1 mmol, 0.50 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | N-ethyl-diisopropylamine | 5.7 mmol, 0.98 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-[1-(4-benzyloxy-phenylcarbamoyl)-3-methylsulfanyl-propyl]-carbamic acid tert-butyl ester | 0.74 g, 82.5% | C(C)(C)(C)OC(N[C@@H](CCSC)C(NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C23H30N2O4S
